US08114868B2
To a solution of (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-oxopropyl)-6-phenyl -1,3-oxazinan-2-one (12 g, 28.8 mmol) in anhydrous THF (100 mL) was added dropwise methylmagnesium bromide (48 mL, 144 mmol) at −78° C. under nitrogen. The mixture was stirred at rt for 1 h. The reaction mixture was quenched with aqueous NH4Cl solution (50 mL) in ice water bath. The layers were separated and the aqueous layer was extracted with EtOAc (150 mL). The combined organic phases were washed with brine (30 mL), dried over Na2SO4 and concentrated in vacuo to give the crude product, which was purified by preparative HPLC and chiral HPLC to afford (S)-3-(S)-1-(4-bromophenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one (6.6 g, 53%).

reactant | (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-oxopropyl)-6-phenyl -1,3-oxazinan-2-one | 28.8 mmol, 12 g | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)=O)=O | C21H22BrNO3
reactant | methylmagnesium bromide | 144 mmol, 48 mL | C[Mg]Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one | 6.6 g, 53% | OC(CC1(CCNC(O1)=O)C1=CC=CC=C1)(C)C | C14H19NO3
